US08871753B2
Step C: 6-Methyl-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine
To a solution of 2-[2-(3-aminophenyl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride (0.16 g, 0.45 mmol) in 2-methoxyethanol (2 mL) was added 4.0 M of hydrogen chloride in 1,4-dioxane (110 μL). The resultant mixture was heated at 150° C. in the microwave for 15 min. After cooling, water and NaOH (12 N) were added to neutralize the mixture to pH=7. The aqueous layer was extracted with EtOAc four times. The combined organic layers were dried, filtered and concentrated. The residue was purified by silica gel column chromatography to give the desired product as an off-white powder (60 mg, 48%). LCMS for C19H20N5 (M+H)+: m/z=318.2.

reactant | 2-[2-(3-aminophenyl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride | 0.45 mmol, 0.16 g | Cl.Cl.Cl.NC=1C=C(C=CC1)CCC1=C(C=CC(=C1)NC1=NC(=NC=C1C)Cl)N
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | water | O | H2O
reactant | NaOH | 12 N | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
solvent | 1,4-dioxane | 110 μL | O1CCOCC1 | C4H8O2
product | 6-Methyl-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine | 60 mg, 48% | CC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3 | C19H19N5
